US08859569B2
1-(2-Fluorobenzyl)-3-iodo-6-methyl-1H-pyrazolo[3,4-d]pyrimidine
7.950 g (13.76 mmol) of 3-iodo-6-methyl-1H-pyrazolo[3,4-d]pyrimidine and 4.930 g (15.13 mmol) of caesium carbonate were put in 20 ml DMF and 2.860 g (15.13 mmol) of 2-fluorobenzyl bromide dissolved in 5 ml DMF was added. The reaction mixture was stirred overnight at RT, diluted with 100 ml water and extracted with ethyl acetate. The organic phase was dried over sodium sulphate and concentrated in a rotary evaporator. The residue was purified by preparative HPLC (eluent: acetonitrile/water, gradient 30:70→95:5). 1.030 g of the target compound was obtained (20% of theor.).

reactant | 3-iodo-6-methyl-1H-pyrazolo[3,4-d]pyrimidine | 13.76 mmol, 7.950 g | IC1=NNC2=NC(=NC=C21)C | C6H5IN4
reactant | caesium carbonate | 15.13 mmol, 4.930 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-fluorobenzyl bromide | 15.13 mmol, 2.860 g | FC1=C(CBr)C=CC=C1 | C7H6BrF
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | 100 ml | O | H2O
product | 1-(2-Fluorobenzyl)-3-iodo-6-methyl-1H-pyrazolo[3,4-d]pyrimidine | 1.030 g | FC1=C(CN2N=C(C=3C2=NC(=NC3)C)I)C=CC=C1 | C13H10FIN4
